US06147216
Step h: 4-Chloro-1-(4-isopropyl-phenyl)-butan-1-one
Slurry aluminum chloride (140.9 g, 1.075 mol) and 4-chlorobutyryl chloride (148 g, 1.05 mol) in methylene chloride (1.0 L) add, by dropwise addition, cumene (125 g, 1.04 mol) over a thirty minute period under a nitrogen atmosphere while maintaining the internal temperature between 5-8° C. with an ice bath. Allow the stirred solution to come to room temperature and continue stirring under nitrogen for 14 hours. Cautiously add the methylene chloride solution to 1 L of crushed ice with stirring and add additional methylene chloride (400 mL). Separate the organic phase and wash with 10% hydrochloric acid (3×300 mL), water (3×300 mL), 10% sodium bicarbonate (3×300 mL) and water (3×300 mL). Dry (MgSO4), filter and wash with methylene chloride (150 mL). Evaporate the solvent to give the title compound (203 g, 86%) as a clear oil which crystallizes on standing; mp 35-37° C.

reactant | aluminum chloride | 1.075 mol, 140.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-chlorobutyryl chloride | 1.05 mol, 148 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | cumene | 1.04 mol, 125 g | C1(=CC=CC=C1)C(C)C | C9H12
solvent | methylene chloride | 1.0 L | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-1-(4-isopropyl-phenyl)-butan-1-one | 203 g, 86% | ClCCCC(=O)C1=CC=C(C=C1)C(C)C | C13H17ClO
